US07625903B2
A round-bottomed flask was charged with 2,4,5-trichloropyrimidine (1.3 g, 4.4 mmol), 2-amino-N-(2-hydroxyethyl)benzamide (838 mg, 4.65 mmol), di-isopropyl-ethylamine (925 μL, 5.31 mmol) and 15 mL isopropanol. The flask was fitted with a reflux condenser and the reaction was heated to reflux and stirred for 18 h. A white solid appeared in the reaction mixture. The reaction was cooled to 0° C. and filtered and solid was washed with ether to afford 2-[(2,5-dichloro-4-pyrimidinyl)amino]-N-(2-hydroxyethyl)benzamide (1.3 g, 89%):

reactant | 2,4,5-trichloropyrimidine | 4.4 mmol, 1.3 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | 2-amino-N-(2-hydroxyethyl)benzamide | 4.65 mmol, 838 mg | NC1=C(C(=O)NCCO)C=CC=C1 | C9H12N2O2
reactant | di-isopropyl-ethylamine | 5.31 mmol, 925 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | 15 mL | C(C)(C)O | C3H8O
product | 2-[(2,5-dichloro-4-pyrimidinyl)amino]-N-(2-hydroxyethyl)benzamide | 1.3 g, 89% | ClC1=NC=C(C(=N1)NC1=C(C(=O)NCCO)C=CC=C1)Cl | C13H12Cl2N4O2
